US06544985B2
(4-Cyano-5-dimethylamino-2-{3-[3-(3-methyl-isoxazol-5-yl)-phenyl]-3-oxo-propionylamino}-phenyl)-carbamic acid tert-butyl ester
The title compound was prepared from (2-amino-4-cyano-5-dimethylamino-phenyl)-carbamic acid tert-butyl ester (Example J23) (276 mg, 1.0 mmol) and 3-[3-(3-methyl-isoxazol-5-yl)-phenyl)-3-oxo-propionic acid tert-butyl ester (Example K4) (301 mg, 1.0 mmol) according to the general procedure M. Obtained as a light brown foam (320 mg, 64%).

reactant | (2-amino-4-cyano-5-dimethylamino-phenyl)-carbamic acid tert-butyl ester | 1.0 mmol, 276 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)C)C#N)N)=O | C14H20N4O2
reactant | 3-[3-(3-methyl-isoxazol-5-yl)-phenyl)-3-oxo-propionic acid tert-butyl ester | 1.0 mmol, 301 mg | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C1=CC(=NO1)C)=O | C17H19NO4
product | (4-Cyano-5-dimethylamino-2-{3-[3-(3-methyl-isoxazol-5-yl)-phenyl]-3-oxo-propionylamino}-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)C)C#N)NC(CC(=O)C1=CC(=CC=C1)C1=CC(=NO1)C)=O)=O | C27H29N5O5
